US05037825
A solution of 14.2 g of 7-bromo-3,4-dihydro-4,4-dimethyl-2H-1-benzopyran and 1.1 g of 1,2-dibromoethane in 80 ml of tetrahydrofuran was added dropwise using a heatable ultrasonics bath, to a suspension, boiling under reflux, of 1.6 g of magnesium shavings in 20 ml of tetrahydrofuran. After heating under reflux for an additional 2 hours, the reaction mixture was cooled to 0° C. and a strong stream of carbon dioxide gas was conducted in (about 1 hour). Thereafter, the mixture was poured on to ice, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic extracts were washed with water, dried and evaporated. After recrystallization from ethyl acetate/hexane, there were obtained 5.3 g of 3,4-dihydro-4,4-dimethyl-2H-1-benzopyran-7-carboxylic acid, melting point 173°-174° C.

reactant | 7-bromo-3,4-dihydro-4,4-dimethyl-2H-1-benzopyran | 14.2 g | BrC1=CC2=C(C(CCO2)(C)C)C=C1 | C11H13BrO
reactant | 1,2-dibromoethane | 1.1 g | BrCCBr | C2H4Br2
reactant | magnesium | 1.6 g | [Mg] | Mg
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-4,4-dimethyl-2H-1-benzopyran-7-carboxylic acid | 5.3 g | CC1(CCOC2=C1C=CC(=C2)C(=O)O)C | C12H14O3
